US07569592B2
3-(4-Bromo-1H-pyrazol-1-yl)benzonitrile (4.4 g, 18 mmol), bis(pinacolato)diborane (5 g, 20 mmol), potassium acetate (5.3 g, 54 mmol) and Pd(dppf)2Cl2.CHCl3 (1.47 g, 1.8 mmol) were weighed into a flask and flushed with Ar(g). Dry 1,4-dioxane (100 mL) was added, the reaction mixture degassed for 10 min with Ar(g) and then heated to 80° C. After 18 h, the reaction mixture was cooled to rt and partitioned between EtOAc (100 mL) and brine (100 mL) and filtered through Celite. The organic layer was separated and the aqueous layer was washed with EtOAc (3×70 mL), dried over Na2SO4, filtered and concentrated to an oil. This was purified by chromatography on silica gel eluting with EtOAc:hexane (2:8) to afford 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]benzonitrile as an orange solid.

reactant | 3-(4-Bromo-1H-pyrazol-1-yl)benzonitrile | 18 mmol, 4.4 g | BrC=1C=NN(C1)C=1C=C(C#N)C=CC1 | C10H6BrN3
reactant | bis(pinacolato)diborane | 20 mmol, 5 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 54 mmol, 5.3 g | C(C)(=O)[O-].[K+]
reactant | CHCl3 | 1.8 mmol, 1.47 g | C(Cl)(Cl)Cl | CHCl3
catalyst | Pd(dppf)2Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]benzonitrile | CC1(OB(OC1(C)C)C=1C=NN(C1)C=1C=C(C#N)C=CC1)C | C16H18BN3O2
